US08252935B2
a) 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (85 mg, 0.19 mmol) in CH3CN (5 ml) was added 1-Bromomethyl-3,5-bis-trifluoromethyl-benzene (88.0 mg, 0.29 mmol), and diisopropylethylamine (66 μl, 0.38 mmol). The reaction was microwaved at 130° C. for 10 minutes. The reaction was diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (109 mg, 85%). Calcd for C35H36F9NO2 (M+H) 673.65, Found 675.4

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.19 mmol, 85 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 1-Bromomethyl-3,5-bis-trifluoromethyl-benzene | 0.29 mmol, 88.0 mg | BrCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
reactant | diisopropylethylamine | 0.38 mmol, 66 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 109 mg, 85% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H36F9NO2
